US07053212B2
To a solution of 4-bromo-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-2-trifluoromethoxy-benzenesulfonamide (0.106 g, 0.15 mmol) in 4 mL ethanol was added 0.8 mL of 1.2N HCl. The reaction mixture was stirred at room temperature for 6 days and was diluted with 10 mL saturated aqueous sodium bicarbonate. The aqueous solution was washed with methylene chloride (2×10 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was purified by preparative TLC (1.0 mm silica gel layer, eluting with 10% methanol/ethyl acetate) to afford 0.030 g (29%) of 4-bromo-N-(3-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl)-2-trifluoromethoxy-benzenesulfonamide. MS 617.3 (M+1)+

reactant | 4-bromo-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-2-trifluoromethoxy-benzenesulfonamide | 0.15 mmol, 0.106 g | BrC1=CC(=C(C=C1)S(=O)(=O)N(CC1=CC(=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1)OC(F)(F)F | C31H34BrF3N2O6S
reactant | HCl | 1.2N, 0.8 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | 4-bromo-N-(3-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl)-2-trifluoromethoxy-benzenesulfonamide | 0.030 g, 29% | BrC1=CC(=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=CC(=CC=C1)O)OC(F)(F)F | C26H26BrF3N2O5S
